US04423047
2-Phenacylthio-5-bromopyrimidine
5-Bromopyrimidine-2-thione (10.5 mmol) was added to a solution of triethylamine (11.6 mmol) in EtOH (130 ml) and the mixture stirred for 15 min before addition of phenacyl bromide (10.5 mmol). The reaction mixture was stirred for 1 h before the solvent was removed at reduced pressure, the residue extracted with chloroform and the chloroform solution chromatographed on alumina (100 g, activity I); yield 71%, m.p. 107°-109° C. (iPrOH). 1H NMR (CDCl3): δ4.60 (CH2), 7.5-8.0 (Ph), 8.46 (H-4, H-6).

reactant | 5-Bromopyrimidine-2-thione | 10.5 mmol | BrC=1C=NC(NC1)=S | C4H3BrN2S
reactant | triethylamine | 11.6 mmol | C(C)N(CC)CC | C6H15N
reactant | phenacyl bromide | 10.5 mmol | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | EtOH | 130 ml | CCO | C2H6O
product | 2-Phenacylthio-5-bromopyrimidine | yield 71% | C(C(=O)C1=CC=CC=C1)SC1=NC=C(C=N1)Br | C12H9BrN2OS
